US07714010B2
c) N-[5-(3-tert-Butoxyimino-propyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide
A solution of N-[7,7-dimethyl-6-oxo-5-(3-oxo-propyl)-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide (50 mg) and O-tert-butyl-hydroxylamine hydrochloride (117 mg; 0.93 mmol) in MeOH (10 ml) and water (1 ml) is stirred at RT for 18 h. After evaporating to dryness the crude material is purified by preparative RP-HPLC eluting with MeCN/water to give the desired compound (7 mg).

reactant | N-[7,7-dimethyl-6-oxo-5-(3-oxo-propyl)-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide | 50 mg | CC1(C(N(C=2C=C3C(=CC12)N=C(N3)NC(C3=CC=CC=C3)=O)CCC=O)=O)C | C21H20N4O3
reactant | O-tert-butyl-hydroxylamine hydrochloride | 0.93 mmol, 117 mg | Cl.C(C)(C)(C)ON
solvent | MeOH | 10 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | N-[5-(3-tert-Butoxyimino-propyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide | 7 mg | C(C)(C)(C)ON=CCCN1C(C(C=2C=C3C(=CC12)NC(=N3)NC(C3=CC=CC=C3)=O)(C)C)=O | C25H29N5O3
